US07071182B2
1-(2-piperidin-1-yl-ethyl)-1H-indazol-4-ylamine
A mixture of 4-Nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole (mmol), iron powder (mmol), and ammonium chloride (mmol) in a 4:1 solution of ethanol/H2O was heated to reflux for 2 hours, cooled to room temperature and concentrated under reduced pressure. The residue was stirred in triethylamine/ethyl acetate (1/4, 30 mL) for 15 minutes and filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure to provide the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.36 (m, 2 H), 1.44 (m, 4 H), 2.37 (m, 4 H), 2.66 (t, J=6.95 Hz, 2 H), 4.33 (t, J=6.95 Hz, 2 H), 5.71 (m, 2 H), 6.12 (m, 1 H), 6.66 (m, 1 H), 6.99 (m, 1 H), 8.02 (m, 1 H); MS (DCI/NH3) m/z 245 [M+H]+.

reactant | 4-Nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole | [N+](=O)([O-])C1=C2C=NN(C2=CC=C1)CCN1CCCCC1 | C14H18N4O2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | iron | [Fe] | Fe
solvent | ethanol H2O | C(C)O.O
product | 1-(2-piperidin-1-yl-ethyl)-1H-indazol-4-ylamine | N1(CCCCC1)CCN1N=CC2=C(C=CC=C12)N | C14H20N4
